US05374615
Pentanimidic acid ethyl ester hydrochloride
Hydrogen chloride gas was bubbled into a tared solution of valeronitrile (92.0 g, 1.08 mole) in absolute ethanol (64 ml, 1.08 mole) in a 1-liter round bottomed flask cooled to 0° C. The flask was weighed periodically and hydrogen chloride gas bubbling was continued until the weight gain was greater than 39 g (1.08 mole). The mixture was then stoppered and stored at 0° C. for 6 days. Ether (650 ml) was then added (cold) and the mixture was stored at -30° C. for 24 hours. The resulting solid was collected on a buchner funnel, transferred quickly to a large beaker, triturated quickly with cold ether, and collected again on a buchner funnel. The solid was then dried in vacuum to give the title F compound as a free flowing white solid (95 g).

reactant | Hydrogen chloride | Cl | ClH
reactant | valeronitrile | 1.08 mole, 92.0 g | C(CCCC)#N | C5H9N
reactant | ethanol | 1.08 mole, 64 ml | C(C)O | C2H6O
product | Pentanimidic acid ethyl ester hydrochloride | Cl.C(C)OC(CCCC)=N | InChI=1S/C7H15NO.ClH/c1-3-5-6-7(8)9-4-2;/h8H,3-6H2,1-2H3;1H
